US05128485
Preparation of β-(Methylamino)-2-naphthaleneacrylonitrile
A solution of β-oxo-2-naphthalenepropionitrile (5.0 g, 0.0256 mol) in toluene is treated with methylamine hydrochloride ()2.6 g, 0.0384 mol), sodium acetate (3.15 g, 0.0386 mol) and a catalytic amount of acetic acid, heated at reflux temperature (fitted with a Dean Stark trap) for 6 hours, cooled, diluted with ethyl acetate and dilute hydrochloric acid. The organic phase is dried over Na2SO4 and concentrated in vacuo to give a residue which is triturated under hexanes to give the title compound as a yellow solid, 3.1 g (58% yield) mp 138° C., identified by IR, 1NHMR and mass spectral analyses.

reactant | β-oxo-2-naphthalenepropionitrile | 0.0256 mol, 5.0 g | O=C(CC#N)C1=CC2=CC=CC=C2C=C1 | C13H9NO
reactant | methylamine hydrochloride | Cl.CN
reactant | sodium acetate | 0.0386 mol, 3.15 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | Cl | ClH
product | β-(Methylamino)-2-naphthaleneacrylonitrile | 58% yield | CNC(=CC#N)C1=CC2=CC=CC=C2C=C1 | C14H12N2
